US08541455B2
According to process 5.2, starting with 0.58 g of N-{(1R,3S)-3-[(benzyloxy)methyl]-cyclopentyl}-6-chloro-N-methylpyridine-3-sulfonamide and 0.15 mL of hydrazine hydrate, 0.49 g of N-{(1R,3S)-3-[(benzyloxy)methyl]cyclopentyl}-6-hydrazinyl-N-methylpyridine-3-sulfonamide is obtained.

reactant | N-{(1R,3S)-3-[(benzyloxy)methyl]-cyclopentyl}-6-chloro-N-methylpyridine-3-sulfonamide | 0.58 g | C(C1=CC=CC=C1)OC[C@@H]1C[C@@H](CC1)N(S(=O)(=O)C=1C=NC(=CC1)Cl)C | C19H23ClN2O3S
reactant | hydrazine hydrate | 0.15 mL | O.NN
product | N-{(1R,3S)-3-[(benzyloxy)methyl]cyclopentyl}-6-hydrazinyl-N-methylpyridine-3-sulfonamide | 0.49 g, Yield=86% | C(C1=CC=CC=C1)OC[C@@H]1C[C@@H](CC1)N(S(=O)(=O)C=1C=NC(=CC1)NN)C | C19H26N4O3S
